US07754737B2
A stirred solution of diisopropylamine (0.65 mL, 4.7 mmol) in THF (15 L) was cooled to 5° C. and n-BuLi (2.5 M in hexanes, 1.9 mL, 4.7 mmol) was added dropwise over 5 min. The mixture was stirred at 5° C. for 15 min and cooled to −70° C. Chlorotrimethylsilane (0.59 mL, 4.7 mmol) was added followed by a solution of 7-bromobenzofuran (0.46 g, 2.35 mmol) in THF (5 mL). The mixture was stirred at −70° C. for 1.5 h and poured into sat'd aq NH4Cl (80 mL). The mixture was diluted with 5% aq HCl (20 mL) and extracted with ether (2×80 mL). The combined ether extracts were washed with sat'd aq NaHCO3 (50 mL), dried over MgSO4 and concentrated to leave crude 7-bromo-2-(trimethylsilyl)benzofuran (0.62 g, 98%) as a yellow oil.

reactant | diisopropylamine | 4.7 mmol, 0.65 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 4.7 mmol, 2.5 M, 1.9 mL | [Li]CCCC
reactant | Chlorotrimethylsilane | 4.7 mmol, 0.59 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | 7-bromobenzofuran | 2.35 mmol, 0.46 g | BrC1=CC=CC=2C=COC21 | C8H5BrO
reactant | NH4Cl | 80 mL | [NH4+].[Cl-]
solvent | THF | 15 L | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | HCl | 20 mL | Cl | ClH
product | 7-bromo-2-(trimethylsilyl)benzofuran | 0.62 g, 98% | BrC1=CC=CC=2C=C(OC21)[Si](C)(C)C | C11H13BrOSi
